US05102890
4-Diisopropylaminobutyric acid hydrochloride may be obtained by working according to the method described in Example 4 for the preparation of 1-methyl-3-piperidinecarboxylic acid hydrochloride, but starting with ethyl 4-diisopropylaminobutyrate (9.2 g) and 6 N aqueous hydrochloric acid solution (28.5 cc) and by heating for 6 hours under reflux. 4-Diisopropylaminobutyric acid hydrochloride (8 g), m.p. 136° C., is thereby obtained.

reactant | 1-methyl-3-piperidinecarboxylic acid hydrochloride | Cl.CN1CC(CCC1)C(=O)O
reactant | ethyl 4-diisopropylaminobutyrate | 9.2 g | C(C)(C)N(CCCC(=O)OCC)C(C)C | C12H25NO2
reactant | hydrochloric acid | 6 N, 28.5 cc | Cl | ClH
product | 4-Diisopropylaminobutyric acid hydrochloride | 8 g | Cl.C(C)(C)N(CCCC(=O)O)C(C)C | InChI=1S/C10H21NO2.ClH/c1-8(2)11(9(3)4)7-5-6-10(12)13;/h8-9H,5-7H2,1-4H3,(H,12,13);1H
